US08686007B2
(S)-2-(4-Fluorophenyl)propan-1-amine.
To a room-temperature solution of (S)-2-(2-(4-fluorophenyl)propyl)isoindoline-1,3-dione (900 mg, 3.2 mmol, 1.0 equiv) in toluene (14 mL) was added hydrazine (1.4 mL, 45 mmol, 14 equiv) by syringe. The resulting mixture was heated to 80° C. for 30 minutes and then cooled to room temperature. The resulting solution was decanted from the solid in the reaction mixture, and the solid was washed with additional toluene. The combined organic layers were concentrated in vacuo to provide the title compound (491 mg, 99%), which was used without further purification. m/z=154.2 [M+H]+.

reactant | (S)-2-(2-(4-fluorophenyl)propyl)isoindoline-1,3-dione | 3.2 mmol, 900 mg, 1.0 equiv | FC1=CC=C(C=C1)[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)C | C17H14FNO2
reactant | hydrazine | 45 mmol, 1.4 mL, 14 equiv | NN | H4N2
solvent | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(4-Fluorophenyl)propan-1-amine | 491 mg, 99% | FC1=CC=C(C=C1)[C@@H](CN)C | C9H12FN
